US04476311
(D) 3-Cyanomethyl-1-methyl-2-phenylpyrrolidin-5-one
To 42 g. of 1-methyl-2-phenyl-3-tosyloxymethyl-pyrrolidin-5-one in 72.5 ml. of dimethylsulfoxide was slowly added 5.7 g of sodium cyanide at 45° C. The reaction was stirred for 3 hours at 100° C. and then set at ambient temperature for 18 hours. After decanting into 1500 ml. of ice water, the product was extracted with 2:1 chloroform-ether, dried (Na2SO4) filtered, and concentrated in vacuo to provide 19.0 g. of light yellow crystals.

reactant | 1-methyl-2-phenyl-3-tosyloxymethyl-pyrrolidin-5-one | CN1C(C(CC1=O)COS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=CC=C1 | C19H21NO4S
reactant | sodium cyanide | 5.7 g | [C-]#N.[Na+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 3-Cyanomethyl-1-methyl-2-phenylpyrrolidin-5-one | C(#N)CC1C(N(C(C1)=O)C)C1=CC=CC=C1 | C13H14N2O
